US04959361
6-(2-Fluorophenyl)-1-methyl-8-(5-pyrimidinyl)ethynyl-4H[1,2,4]triazolo[4,3-a][1,4]benzodiazepine
A mixture of 316 mg (1 mmol) of 8-ethynyl-6-(2-fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine 200 mg (1.25 mmol) of 5-bromopyrimidine, 45 mq of triphenylphosphine, 10 mg of cuprous iodide, 0.5 ml of triethylamine and 10 ml of dimethylformamide was stirred and degassed for 10 minutes by a slow stream of argon. Palladium acetate, 15 mg, was then added and stirring under argon was continued for 24 hours. The reaction mixture was partitioned between aqueous sodium bicarbonate solution and methylene chloride. The organic layer was washed with water, dried and evaporated, at the end azeotropically with xylene. The residue was chromatographed over 20 g of silica gel (Merck 70-230 mesh) using 5% of ethanol in methylene chloride. The combined clean fractions were evaporated and the residue was crystallized from ethyl acetate to give off-white crystals of the title compound with m.p. 143°-146° C.

reactant | 8-ethynyl-6-(2-fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 1 mmol, 316 mg | C(#C)C=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3)F)C1 | C19H13FN4
reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-(2-Fluorophenyl)-1-methyl-8-(5-pyrimidinyl)ethynyl-4H[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CC=3C=NC=NC3)C(=NN2)C | C23H15FN6
